US07834039B2
(Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide (1 g, 4.37 mmol), 4-aminobenzoic acid (0.660 g, 4.81 mmol), HOBT (0.737 g, 4.81 mmol), DCC (0.992 g, 4.81 mmol) and DIEA (1.680 ml, 9.62 mmol) were combined in a microwave vial. The reaction mixture was heated in the microwave for 20 minutes at 150° C. The reaction mixture was filtered to remove the urea formed in the reaction and the solvent was removed in vacuo. The crude material was purified by FCC (50% ethyl acetate/heptane) to afford 4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)aniline (729 mg, 2.211 mmol, 50.6% yield) as an off white solid: LCMS (Table A, Method b) 3.00 min, (M+H)+ 330.13.

reactant | (Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide | 4.37 mmol, 1 g | ClC=1C=C(/C(/N)=N/O)C=CC1OC(C)C | C10H13ClN2O2
reactant | 4-aminobenzoic acid | 4.81 mmol, 0.660 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | HOBT | 4.81 mmol, 0.737 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 4.81 mmol, 0.992 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | DIEA | 9.62 mmol, 1.680 ml | CCN(C(C)C)C(C)C | C8H19N
product | 4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)aniline | 2.211 mmol, 729 mg, 50.6% yield | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(N)C=C1 | C17H16ClN3O2
